US05922724
5-Acetyl-1-(3-(3-pyridyl)phenyl)benzimidazole:
5-acetyl-2-(3-(3-pyridyl)phenylamino)aniline (5 g, 16.5 mmol) in formic acid (50 ml) is stirred at 90° C. for 1.5 hours. The cooled reaction mixture is made alkaline by addition of 12 M NaOH. 5-acetyl-1-(3-(3-pyridyl)phenyl)benzimidazole is filtered off washed with water and dried. Quantitative yield. m.p. 195-97° C.

reactant | 5-acetyl-2-(3-(3-pyridyl)phenylamino)aniline | 16.5 mmol, 5 g | C(C)(=O)C=1C=CC(=C(N)C1)NC1=CC(=CC=C1)C=1C=NC=CC1 | C19H17N3O
reactant | NaOH | 12 M | [OH-].[Na+]
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | 5-Acetyl-1-(3-(3-pyridyl)phenyl)benzimidazole | Quantitative yield | C(C)(=O)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2)C=C1 | C20H15N3O
